US04626538
An 11.61 g portion of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide was reacted with 7.26 g of allyl bromide as described in Example 6, giving 13.34 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-2-propenylacetamide, mp 91°-94° C.

reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]acetamide | CN(C=CC(=O)C=1C=C(C=CC1)NC(C)=O)C | C13H16N2O2
reactant | allyl bromide | 7.26 g | C(C=C)Br | C3H5Br
product | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-2-propenylacetamide | 13.34 g | CN(C=CC(=O)C=1C=C(C=CC1)N(C(C)=O)CC=C)C | C16H20N2O2
